* sg13g2-bandgap -- bandgap_core PEX (post-layout) open-loop PVT testbench
* (issue #14). Generated from
* sim/core-open-loop-bias-pex/testbench/tb_core_open_loop_bias_pex.spice.tmpl
* by sim/core-open-loop-bias-pex/run_pvt_sweep.sh -- do not edit a generated
* netlist-snapshots/*.spice file directly, edit this template and re-run
* the sweep. Full rationale is in sim/core-open-loop-bias-pex/README.md;
* this header is a short pointer, not a restatement.
*
* Generated for: corner=typ temp=27C vdd=3.30V
* DUT git sha (design/netlist/bandgap_core.spice, for the spliced-in
* bipolar devices -- resistors are extracted as of issue #59, see below):
*   8bb15bc
* Layout git sha (layout/bandgap_core/bandgap_core.gds, extraction input):
*   acf3713
* PDK: ihp-sg13g2 /home/ubuntu/share/pdk (see sim/pdk.json for the pinned release)
* OSDI models: /home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi (built by sim/tools/build-osdi.sh -- see
*   sim/README.md "OSDI device models" for provenance)
*
* THIS IS A HYBRID PEX NETLIST, NOT A PURE LAYOUT EXTRACTION -- read
* sim/core-open-loop-bias-pex/README.md "What this does and does not
* model" before trusting a result here. Short version:
*   - XM1/XM2/XM3 (the sg13_hv_pmos mirror legs) are re-encoded from
*     `klt extract --deck sg13g2 --parasitics layout/bandgap_core/
*     bandgap_core.gds` (layout/bandgap_core/bandgap_core.pex.spice,
*     layout/bandgap_core/pex_extract_report.json): real drawn W/L and
*     junction AS/AD/PS/PD from the routed layout, re-expressed as X-subckt
*     calls to the real sg13_hv_pmos compact model (the extraction's own
*     native `M...pfet` cards reference a generic placeholder model name,
*     not the real PDK subckt -- see README.md).
*   - XQ1/XQ2/XQ3 (npn13G2) are NOT extracted from the layout at all --
*     `klt`'s curated sg13g2 deck still does not recognise bipolar devices
*     (klayout-tools, filed generically; see layout/README.md's LVS section
*     for the fuller writeup). They are spliced in verbatim from
*     design/netlist/bandgap_core.spice, wired to the SAME real layout net
*     names (sns1/sns2/cb2/cb3/vref/vss) the extraction itself reports as
*     real, physically-routed pins -- not invented nodes.
*   - XR1/XR2 (rppd) are now instantiated from the extracted R$5/R$4
*     devices (issue #59) instead of being spliced verbatim from
*     design/netlist/bandgap_core.spice -- PR #45's resistor marker layers
*     made the sg13g2 deck's `rppd` recognizer actually match both poly
*     resistors in this layout (pex_extract_report.json's device_counts
*     reads `{"pfet": 3, "rppd": 2}`). IMPORTANT caveat, confirmed by direct
*     ngspice testing, not assumed from bandgap_core.pex.spice's own text:
*     that file's native `R$4 sns2__t0 cb2__t0 vsubs 10751 rppd` card is
*     NOT literal simulatable ngspice syntax (a 2-terminal `R` element
*     cannot take a 3rd node before its value -- ngspice errors "unknown
*     parameter (vsubs)") -- `rppd`/`rhigh` are PDK subckts (`1 2 bn`
*     pins), the same situation the pfet/nfet M-cards above already needed
*     X-subckt re-encoding for. XR1/XR2 below are therefore X-subckt calls
*     to the real `rppd` subckt using pex_extract_report.json's own drawn
*     `w_um`/`l_um` (which, for both resistors here, are numerically
*     identical to the schematic's own nominal `w`/`l` -- these are
*     fixed-geometry poly resistors, so this pass buys no *geometry*
*     correction, only the bulk-node correction below and the newly-wired
*     hub-terminal parasitics). Bulk lands on `vsubs` (the extraction's
*     real reported bulk net for these devices), not the schematic's
*     `sub!` -- the now-unused `Vsub sub! vss` fixture is removed below.
*     Separately: `pex_extract_report.json`'s own `r_ohm` field (10751 /
*     66430, current post-#134-retune extraction -- issue #141) is klt's
*     own first-order `rsh * l_um / w_um` sheet-resistance estimate
*     (confirmed exactly: `260 * 82.7 / 2 = 10751`,
*     `260 * 511 / 2 = 66430`), not the full `r3_cmc` compact-model
*     resistance -- simulating the X-subckt form above at the same drawn
*     geometry computes ~10722 ohm / ~66069 ohm (res_typ, 27C), within
*     ~0.5% of `r_ohm`, i.e. small and in the expected direction (the
*     compact model adds contact/end-effect terms the sheet-resistance
*     formula does not). Disclosed, not silently reconciled.
*   - The extracted mirror legs' body terminals are genuinely floating in
*     the layout (no drawn/derivable well tie -- klayout-tools, filed
*     generically; see layout/README.md's LVS cause 2). FIXTURE 3 below
*     reconnects each one to vdd, mirroring the schematic's own real
*     body-tied-to-vdd intent, so the netlist has a well-defined DC
*     operating point at all -- this is a testbench fixture bridging a
*     known, disclosed deck gap, not a claim about the real layout's body
*     connectivity.
*   - klayout-tools#1280/#1282 (issue #37) populated the sg13g2 deck's
*     PARASITICS.metals/metal_overlaps coefficient tables (Metal1/Metal2,
*     later the full Metal1-TopMetal2 stack). Re-extracting against the
*     current deck now yields non-zero r_count/c_count -- this run wires
*     in those wire R/C cards verbatim (see "Wire parasitics" below),
*     the first PEX record here to carry them. Gate net \$9 and the
*     anonymous body nets get no wire model either way (poly=None in
*     this deck -- see the module docstring in klayout_tools.decks.sg13g2 --
*     and each body net has only one device terminal). See README.md.

.lib "/home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib" hbt_typ
.lib "/home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib" mos_tt
.lib "/home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib" res_typ

.options temp=27 tnom=27

Vvdd vdd 0 dc 3.30
Vvss vss 0 dc 0
* bandgap_core.spice's schematic-splice convention wired the rppd bulk
* terminals to the global substrate net `sub!`, fixtured to vss via a 0 V
* source (sim/core-open-loop-bias's own fixture). As of issue #59, XR1/XR2
* below are the extracted R$5/R$4 devices instead, whose real bulk net is
* `vsubs` -- already stabilized by `Rvsubs_dctie` in the "Wire parasitics"
* block below -- so the `sub!`/`Vsub` fixture is no longer referenced by
* anything in this file and is removed rather than left as dead code.

* FIXTURE 1 -- open-loop mirror bias, same convention as
* sim/core-open-loop-bias (no error amplifier exists yet -- issue #9's
* scope cut): a diode-connected replica of the mirror device, carrying a
* 5 uA reference, sets the shared gate net. `pex_fb` substitutes for the
* extraction's own anonymous label ($9 in layout/bandgap_core/
* bandgap_core.pex.spice) -- klt's own anonymous net numbering is
* explicitly "not a stable contract" (klt extract --help), so this
* testbench names it for readability rather than embedding the raw `$9`.
XM0 pex_fb pex_fb vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
Ibias pex_fb vss dc 5u

* FIXTURE 2 -- per-leg ammeter. The extracted M-card's own D/S convention
* is `nd=vdd ng=$9 ns=<leg>` (opposite the schematic's `d=<leg> g=fb
* s=vdd`) -- inconsequential here since every leg's AS=AD and PS=PD
* (confirmed in pex_extract_report.json), so PSP103's terminal formulation
* is symmetric under this exchange; disclosed, not silently assumed. Each
* leg's own extracted node reaches its DUT probe node through a 0 V
* ammeter, mirroring sim/core-open-loop-bias's own Vm1/Vm2/Vm3 fixture.
* FIXTURE 3 -- body tie. See the file header above.
*
* Each leg's drain/source pins below are wired to the exact per-terminal
* wire-parasitic hub node names layout/bandgap_core/bandgap_core.pex.spice's
* own M$1/M$2/M$3 cards use (vdd__t0/__t1/__t2, sns1__t0/sns2__t0/vref__t0)
* -- the "Wire parasitics" block below ties each hub back to its real net
* (vdd/sns1/sns2/vref) through that file's own series R (+ ground/coupling
* C, no DC effect but included for completeness). This makes i(vm1/2/3)
* below the true per-leg device current, upstream of any wire IR drop, and
* v(sns1)/v(sns2)/v(vref) the real post-parasitic net voltage the
* downstream bipolar/resistor devices actually see.
XM1 vdd__t0 pex_fb m1s vdd sg13_hv_pmos w=10u l=1u ng=1 m=1 as=4p ad=4p ps=20.8u pd=20.8u
Vm1 m1s sns1__t0 dc 0
XM2 vdd__t2 pex_fb m2s vdd sg13_hv_pmos w=10u l=1u ng=1 m=1 as=4p ad=4p ps=20.8u pd=20.8u
Vm2 m2s sns2__t1 dc 0
XM3 vdd__t1 pex_fb m3s vdd sg13_hv_pmos w=10u l=1u ng=1 m=1 as=4p ad=4p ps=20.8u pd=20.8u
Vm3 m3s vref__t1 dc 0

* Wire parasitics (issue #37, refreshed issue #56, extended issue #59) --
* verbatim R/C cards from layout/bandgap_core/bandgap_core.pex.spice's
* --parasitics output (the file's M$1/M$2/M$3 cards are already re-encoded
* above as XM1/XM2/XM3; R$4/R$5 are re-encoded below as XR2/XR1 -- see file
* header). Issue #59 adds this file's own Rsns2_t0/Rcb2_t0/Rvref_t0/
* Rcb3_t0 hub legs (R$4/R$5's own terminal-only legs, previously omitted
* here specifically because those terminals dangled with no device
* attached) -- every other line is unchanged from issue #56's own verbatim
* transcription. Regenerate this block together with the geometry above if
* the layout or deck ever changes.
Rcb2_t0 cb2__t0 cb2 29.0653
Ccb2 cb2 vsubs 9.160686e-15
Rcb3_t0 cb3__t0 cb3 166.8545
Ccb3 cb3 vsubs 5.0523725e-14
Rsns1_t0 sns1__t0 sns1 15.1283
Csns1 sns1 vsubs 4.244144e-15
Rsns2_t0 sns2__t0 sns2 10.00665
Rsns2_t1 sns2__t1 sns2 10.00665
Csns2 sns2 vsubs 6.09238e-15
Rvdd_t0 vdd__t0 vdd 16.7020471429
Rvdd_t1 vdd__t1 vdd 18.85715
Rvdd_t2 vdd__t2 vdd 2.15510285714
Cvdd vdd vsubs 1.0981582e-14
Rvref_t0 vref__t0 vref 20.6923
Rvref_t1 vref__t1 vref 20.6923
Cvref vref vsubs 1.2544606e-14
Rvss vss vss__par 6.8112
Cvss vss__par vsubs 1.1328721e-14
Ccc_cb2_vdd cb2 vdd 8.235e-18
Ccc_cb2_vss cb2 vss__par 3.0251e-17
Ccc_cb3_vdd cb3 vdd 8.235e-18
Ccc_cb3_vref cb3 vref 8.235e-18
Ccc_cb3_vss cb3 vss__par 2.0167e-17
Ccc_sns1_vss sns1 vss__par 3.0251e-17
Ccc_sns2_vdd sns2 vdd 8.235e-18
Ccc_vdd_vref vdd vref 8.235e-18
Rvsubs_dctie vsubs 0 1e+12

* Bipolar devices -- schematic-sourced, see file header above (klt's sg13g2
* deck still does not recognise npn13G2 as an extracted device class).
XQ1 sns1 sns1 vss vss npn13G2 Nx=1
XQ2 cb2 cb2 vss vss npn13G2 Nx=8
XQ3 cb3 cb3 vss vss npn13G2 Nx=1

* Resistor devices -- extracted from the routed layout as of issue #59
* (R$4/R$5 in layout/bandgap_core/bandgap_core.pex.spice), re-encoded as
* X-subckt calls to the real rppd PDK subckt (see file header for why the
* pex.spice file's own native R$4/R$5 cards are not directly simulatable,
* and for the r_ohm-vs-simulated-resistance caveat). XR1/XR2 keep the
* schematic's own instance names for continuity; the hub-terminal node
* names below (sns2__t0/cb2__t0/vref__t0/cb3__t0) are the extraction's own.
XR2 sns2__t0 cb2__t0 vsubs rppd w=2u l=82.7u m=1 b=0
XR1 vref__t0 cb3__t0 vsubs rppd w=2u l=511u m=1 b=0

.op
.control
pre_osdi /home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/mosvar.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/r3_cmc.osdi
run
print v(vref) v(pex_fb) v(sns1) v(sns2) v(cb2) v(cb3) i(vm1) i(vm2) i(vm3)
.endc
.end
